Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
chlorhexidine
 
Attending: ___.
 
Chief Complaint:
fever, abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP (aborted)
Stenting of right posterior portal vein

 
History of Present Illness:
Mr. ___ is a ___ male with a PMH of 
cholangiocarcinoma (s/p chemo and XRT, last in ___, follows w/ 
oncology, currently undergoing surveillance only, no known 
recurrence), biliary obstruction c/b cholangitis requiring metal 
stent placement and exchanges approximately every 2 months, Hx 
of MDR E Coli bacteremia currently on suppressive delafloxacin, 
BPH, DM2 and other issues who presents with fever to 103 at home 
concerning for recurrent cholangitis.

Per medicine admission H&P: Patient was last admitted to ___ 
___ for routine clean out of his biliary metal stents via 
ERCP. There was some visualized bleeding during the procedure 
and so patient was admitted for monitoring, Hb subsequently 
remained stable. Patient received a prophylactic dose of 
meropenem while inpatient, although there were no signs of acute 
infection. The plan was for repeat ERCP in 3 months.  At that 
time he was started on suppressive delafloxacin per ID given 
history of MDR E coli.  His last episode of cholangitis was in 
___.  

On day prior to admission, patient was in his usual state of 
health when he noted development of mild nausea.  On day of 
admission, he awoke with a fever of 103 and rigors.  He has not 
had vomiting or abdominal pain, but he has had 4 loose bowel 
movements today (he normally has ___ BMs in the AM that are 
formed). ROS was otherwise negative. Of note, he did report a 
diffuse rash that has improved with changing soaps but no other 
symptoms.

Patient was initially hemodynamically stable and admitted to the 
floor. On hospital day 0, he was taken for urgent ERCP for c/f 
cholangitis. He was started on meropenem while awaiting the 
procedure. During ERCP, the common bile duct was visualized and 
dilated with a balloon. Immediately following, patient was noted 
to have rapid bleeding of fresh blood into the common bile duct. 
Estimated blood loss was approximately 1L. In that setting, BP 
dropped to ___. ERCP was aborted and FICU was consulted for 
concern for developing hemorrhagic shock. BPs improved after 
administration of IVF to ___. 

On arrival to the FICU, patient is alert and arousable. Denies 
pain. No new complaints. 

 
 
Past Medical History:
Cholangiocarcinoma 
Biliary obstruction c/b cholangitis 
Rosacea
BPH
Migraines controlled on Atenolol
Arthritis of the knees and shoulder on the right
C.diff x3
Diabetes Mellitus diagnosed ___

CHOLANGIOCARCINOMA/BILIARY HISTORY:
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.  
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools.  He states
that over the summer, he was more fatigued than usual with
burping.  He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen.  He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.  
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits.  During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct.  He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4. 
- ___: repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point.  During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung
nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated
this ductal dilation and a mass at the bifurcation of the right
anterior and left intrahepatic ducts worrisome for type IV
___ cholangiocarcinoma.  Cytology was suspicious 
for
carcinoma. 
- ___: repeat ERCP with exchange of plastic for metal stent. 


- ___: start of cisplatin/gemcitabine cycle 1
-___ seen in ED for BPV 
- ___ cycle ___: hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enteroccocus
- ___: cycle 3, last dose ___ and ___: hospitalized for GNR bacteremia and
cdiff and then again for delerium, discharged home
- ___: C4 D1 Gem/Cis. C4D15 held.
- ___ completed CK. radiation and resume C5D1 Gem/Cis. Day
15 held due to low counts and post-hospitalization. 
- ___: admitted for fever, cultures negative. Stents not
entirely patent on CT but fevers resolved, ? viral. 
- ___: start of C6 with dose reduced gemcitabine to 800mg/m2
- ___: start of C7 with dose reduced gemcitabine to 
750mg/m2.
Also received on ___.
- ___: received last dose, C8D1
- ___ and ___: hospitalized for biliary sepsis s/p perc
chole tube
- ___: hospitalized with biliary drain obstruction,
hemobilia s/p exchange of percutaneous biliary drain tubing,
disimpaction of percutaneous biliary drain by, interventional
radiology, ERCP, hepatic capsular artery embolization
- ___ admit for ecoli bacteremia with stone/sludge
removal and on IV meropenem X 10 days; ___ admit with 
fever
and PTBD replaced
-  admitted from ___ to ___, with
replacement of his percutaneous biliary drain on ___ 
due
to fever.  None of his blood cultures returned positive during
that admission.
- visited ED with fevers, chills abdominal pain on ___ and
___. 
- admitted ___ - ___ with cholangitis, hospitalization
complicated by hemobilia during ERCP interrogation of L CBD.
Treated with 7d meropenem. Blood cultures negative throughout
hospitalization. MRCP obtained ___ showed no new soft tissue
masses.
- admitted ___ - ___ with cholangitis, ERCP deferred
given prior hemobilia. In the absence of an obvious 
target for decompression, ___ was not consulted for consideration 


of biliary drain replacement. Blood and urine cultures were
negative. After discussion with the infectious disease team, the
decision was made to treat for acute cholangitis with a 10d
course of meropenem 500mg q6h (___), followed by 
initiation
of suppressive doxycycline 100mg DAILY (for VRE) and bactrim DS 
1
tab daily.
- admitted ___ with cholangitis and associated ESBL E coli 
bacteremia;  treated with ERCP ___ with clean out of his metal 
stents and 14d meropenem.
admitted ___ for fever, cholangitis treated w ertapenem
at discharge and then after that transitioned to delafloxacin.

 
Social History:
___
Family History:
Two grandparents with unknown cancers, otherwise no cancer 
history.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: Reviewed in metavision  
GENERAL: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: CTAB, no wheezes, crackles, rhonchi.
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: warm, well perfused
NEURO: A&Ox3, moving all extremities

DISCHARGE PHYSICAL EXAM:
========================
Vitals: 24 HR Data (last updated ___ @ 952)
    Temp: 99.2 (Tm 99.2), BP: 107/66 (107-122/66-73), HR: 67
(67-84), RR: 18, O2 sat: 97% (97-98)      
GENERAL: Well appearing male in NAD, pleasant in conversation.  
HEENT: Poor dentition.  OP otherwise clear with no lesions.
NECK: No appreciable elevation of JVP.
LUNGS: Clear to auscultation bilaterally.  
HEART: RRR, s1 s2, no appreciable MRG.  
ABD: NABS throughout.  No distention.  Mild tenderness of the
RUQ.  ___ entry site in RUQ covered and cdi.  No palpable HSM.  
EXT: WWP, no lower extremity edema.  
SKIN: No rash.    
ACCESS: RIJ CVL.
 
Pertinent Results:
ADMISSION LABS:
==============
___ 11:40AM BLOOD WBC-6.3 RBC-4.58* Hgb-11.3* Hct-35.6* 
MCV-78* MCH-24.7* MCHC-31.7* RDW-16.9* RDWSD-46.6* Plt Ct-94*
___ 11:40AM BLOOD Neuts-90.6* Lymphs-3.4* Monos-4.5* 
Eos-0.6* Baso-0.3 Im ___ AbsNeut-5.67 AbsLymp-0.21* 
AbsMono-0.28 AbsEos-0.04 AbsBaso-0.02
___ 09:02PM BLOOD ___ PTT-27.8 ___
___ 09:02PM BLOOD ___ 12:00PM BLOOD Glucose-146* UreaN-12 Creat-0.8 Na-137 
K-4.8 Cl-101 HCO3-20* AnGap-16
___ 12:00PM BLOOD ALT-66* AST-81* AlkPhos-307* TotBili-0.9
___ 09:02PM BLOOD Albumin-3.3* Calcium-7.9* Phos-3.4 
Mg-1.4*
___ 11:32PM BLOOD ___ Temp-37.2 O2 Flow-1 pO2-44* 
pCO2-35 pH-7.46* calTCO2-26 Base XS-1 Intubat-NOT INTUBA 
Comment-NASAL ___
___ 11:40AM BLOOD Lactate-2.1*
___ 11:32PM BLOOD freeCa-1.02*

DISCHARGE LABS:
===============
___ 03:53AM BLOOD WBC-3.0* RBC-3.04* Hgb-7.5* Hct-24.5* 
MCV-81* MCH-24.7* MCHC-30.6* RDW-17.5* RDWSD-50.9* Plt ___
___ 05:35AM BLOOD ___ PTT-26.2 ___
___ 03:53AM BLOOD Glucose-133* UreaN-11 Creat-0.6 Na-140 
K-4.4 Cl-104 HCO3-27 AnGap-9*
___ 03:53AM BLOOD ALT-137* AST-63* LD(LDH)-113 AlkPhos-337* 
TotBili-0.3
___ 03:53AM BLOOD Calcium-8.2* Phos-3.4 Mg-1.9

MICRO:
======
___ urine culture: no growth

___ blood cultures:
ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Piperacillin/Tazobactam test result performed by ___ 
___. 
         FOSFOSMYCIN & Ertapenem Susceptibility testing 
requested per
         ___ (___), ___. 
         FOSFOMYCIN = SUSCEPTIBLE test result performed by ___ 
___. 
         Ertapenem = SUSCEPTIBLE test result performed by ___ 
___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------       R
CEFTAZIDIME-----------  =>64 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----       I
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----     4 R

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ @ 0346 ON 
___ -
      ___. 
      GRAM NEGATIVE ROD(S). 

___ stool c diff: negative

___ blood cultures: no growth

___ blood cultures: no growth

___ blood culture: no growth to date (pending)

IMAGING AND STUDIES:
===================
___ RUQUS:
1. No new or increasing biliary dilatation or other evidence of
choledocholithiasis.
2. Stable chronic findings, as above.

___ CXR:
No acute intrathoracic process.

___ CTA abd & pelvis:
1. No signs of active extravasation.  No large intrahepatic 
hematoma.  No
fluid within the abdomen or pelvis.
2. Similar appearance of an atrophic left hepatic lobe with mild 
intrahepatic
ductal dilatation bilaterally and new moderate-severe 
pneumobilia on the left,
likely sequela from the recent procedure.  No perihepatic fluid. 
 Dual CBD
stents appear in similar position to prior.
3. Multiple hypodensities within the liver, the largest measures 
2.6 cm near
the right hepatic vein, some of which are new from the prior 
study, may
represent spread of disease versus sequela from cholangitis, 
however no active
extravasation or significant enhancement is demonstrated.

___ portal venography:
Successful transhepatic access of the right posterior portal 
venous system and
deployment of a covered stent spanning the main portal vein to 
the right
posterior portal vein.
 
Brief Hospital Course:
SUMMARY:
========
Patient is a ___ with a PMH of cholangiocarcinoma (s/p chemo and 
XRT, last in ___, follows w/ oncology, currently undergoing 
surveillance only, no known recurrence), biliary obstruction c/b 
recurrent cholangitis requiring metal stent placement and 
exchanges approximately every ___RCP, history of MDR 
E Coli bacteremia currently on suppressive delafloxacin 
(followed by ID) who initially presented with fever to 103 at 
home concerning for recurrent cholangitis, course complicated by 
acute blood loss during CBD balloon sweep with ERCP iso likely 
portobiliary fistula, now s/p portal vein stenting with ___, 
course further complicated by E coli bacteremia. 

ACTIVE ISSUES:
==============
# E.coli Bloodstream infection
# Cholangitis - Patient presented with symptoms/signs concerning 
for recurrent cholangitis, LFTs were consistent with obstructive 
hepatobiliary pathology. Unfortunately, during ERCP he 
experienced large volume hemorrhage related to likely 
portobiliary fistula and Hb dropped from 11.3 to 7.8. No 
pressors were required, and the patient was stabilized in the 
FICU. Although ERCP was ultimately aborted, patient has improved 
from an infectious standpoint with antibiotics alone, now 
afebrile with stable LFTs. A midline was placed on ___. While 
LFTs uptrended on ___, this was felt to be due to meropenem, 
and no repeat ERCP was indicated at this time. Blood cultures 
were followed, and were last positive with E. coli sensitive to 
meropenem on ___. Per recommendations by Infectious Disease, 
meropenem was started on ___, and was transitioned to ertapenem 
on ___, with the plan to complete a 14 day course of 
antibiotics from the first day of negative cultures (i.e. last 
day of IV ertapenem will be ___. Following this, the 
patient should begin delafloxacin 450mg PO bid + fosfomycin 3g 
PO bid. ___ clinic will call the patient to book a clinic 
appointment in around 3 months following discharge.

# Acute blood loss anemia - The patient experienced hemorrhage 
during ERCP as above. The patient underwent portal vein stenting 
with ___. He received 1 u pRBCs during this admission. Hgb was 
monitored daily and remained stable ___ for the duration of the 
hospitalization.

# Leukopenia
WBC count was noted to be downtrending since ___, WBC 2.7 on 
___. This was thought to most likely be due to a medication 
effect from meropenem. The patient was monitored but did not 
develop new localizing s/s infection. Monitored with daily CBC.

# Stage IV cholangiocarcinoma - Patient received palliative 
chemotherapy in ___ with cisplatin/gemcitabine, ___ and 
imaging have been largely stable. CT A/P this admission did show 
hypodensities in the liver new from prior studies, possibly 
related to acute cholangitis, though cannot rule out disease 
recurrence. No indication to send CA ___ this admission. 
Continued home dronabinol 5 mg BID. A follow up appointment with 
Oncology was made.

CHRONIC/RESOLVED ISSUES:
=======================
# Diarrhea - Patient with reported loose stools on admission. 
This has occurred in the setting of cholangitis for him in the
past. Acute hemorrhage may additionally have caused some
diarrhea. C. diff NEGATIVE. Now having regular BMs.

# Electrolyte derangements (low Phos/Mg)- Monitored and repleted 
daily as needed.

# BPH: Continued home finasteride and tamsulosin.

# Type II Diabetes Mellitus: not on antihyperglycemics, glucose 
was monitored.

# GERD: Continued pantoprazole, consider transition to H2 
blocker
on d/c.

# Post nasal drip: Continued home loratadine, fluticasone. 

# Migraines: Held home atenolol due to acute bleed this 
admission.

TRANSITIONAL ISSUES:
====================
[] The patient should continue ertapenem 1 mg Q24H IV until 
___, to complete 14d from ___ neg BCx.
[] On ___, the patient should begin delafloxacin 450mg PO 
bid + fosfomycin 3g PO bid.
[] The patient will require repeat liver imaging and follow up 
with Oncology. The CTA abd/pelvis obtained on ___ showed 
multiple hypodensities within the liver, the largest measures 
2.6 cm near the right hepatic vein, some of which are new from 
the prior study, which may represent spread of 
cholangiocarcinoma versus sequela from cholangitis.
[] PCP should obtain labs following discharge, including LFTs 
(given elevation this admission, likely due to antibiotics), Hgb 
(due to acute bleeding during this admission), and WBC (due to 
leukopenia at time of discharge).
[] ___ clinic will call the patient to set up a clinic 
appointment in 3 months. (The appointment originally scheduled 
for the week following discharge has been cancelled.)
[] The patient should continue to monitor closely for signs of 
cholangitis (fever, abdominal pain, jaundice).

#HCP/CONTACT:
___ 
Relationship: WIFE 
Phone: ___ 
#CODE STATUS: Full 

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. delafloxacin 450 mg oral BID 
3. Finasteride 5 mg PO DAILY 
4. Fluticasone Propionate NASAL 2 SPRY NU BID 
5. Loratadine 10 mg PO DAILY 
6. Pantoprazole 40 mg PO Q24H 
7. Tamsulosin 0.4 mg PO QHS 
8. Dronabinol 5 mg PO BID 

 
Discharge Medications:
1.  ertapenem 1 gram injection Q24H Duration: 8 Doses 
Last dose ___.  Fosfomycin Tromethamine 3 g PO BID 
Begin ___

Dissolve in ___ oz (90-120 mL) water and take immediately  
3.  delafloxacin 450 mg oral BID 
You should restart this medication on ___.   
4.  Dronabinol 5 mg PO BID  
5.  Finasteride 5 mg PO DAILY  
6.  Fluticasone Propionate NASAL 2 SPRY NU BID  
7.  Loratadine 10 mg PO DAILY  
8.  Pantoprazole 40 mg PO Q24H  
9.  Tamsulosin 0.4 mg PO QHS  
10. HELD- Atenolol 50 mg PO DAILY  This medication was held. Do 
not restart Atenolol until you talk to your primary care doctor

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
Escherichia coli bloodstream infection
Cholangitis
Acute blood loss anemia

Secondary diagnoses:
History of stage IV cholangiocarcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?
You had a bile duct system infection (cholangitis) and your ERCP 
procedure was complicated by serious bleeding. You also had a 
blood infection.

WHAT HAPPENED TO ME IN THE HOSPITAL?
- Interventional Radiology performed a stenting procedure to 
stop the dangerous bleeding in one of your blood vessels (portal 
vein).
- You were watched closely in the ICU because your blood count 
dropped very low.
- You were treated with antibiotics (meropenem) for a blood 
stream infection.
- You improved and were ready to leave the hospital.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.
- You will continue ertapenem until ___.
- You will continue with suppressive antibiotics on ___ 
after you finish the ertapenem.

We wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___